US08980276B2
Preparation 35: tert-butyl (trans-4-{[2-({5-[(2S)-1-methylpyrrolidin-2-yl]pyridin-3-yl}oxy)ethyl]carbamoyl}cyclohexyl)carbamate
A solution of 2-({5-[(2S)-1-methylpyrrolidin-2-yl]pyridin-3-yl}oxy)ethanamine (preparation 12) (55 mg, 0.25 mmol) in 2-methyltetrahydrofuran (2 ml) was treated, with stirring, with trans-4-tert-butoxycarbonyl-cyclohexane carboxylic acid (91 mg, 0.373 mmol) followed by T3P (317 μl, 0.498 mmol) and the Et3N(118 μl, 0.91 mmol). After stirring for 3 hours, the solution was treated with T3P (69 μL, 0.498 mmole). After stirring for 18 hours the solution was concentrated in vacuo and the residue was taken up in MeOH and applied to an SCX-2 cartridge which was eluted with methanol followed by ammonia in MeOH (˜2M). Product containing fractions were concentrated in vacuo and the residue purified by column chromatography on silica gel eluting with EtOAc:MeOH:NH3 (gradient from 1:0:0 to 90:10:1). This material was then dissolved in DCM and treated with PS-Isocyanate resin for 3 hours then filtered and evaporated in-vacuo to give the title compound as a pale yellow gum (35 mg, 35%);

reactant | 2-({5-[(2S)-1-methylpyrrolidin-2-yl]pyridin-3-yl}oxy)ethanamine | 0.25 mmol, 55 mg | CN1[C@@H](CCC1)C=1C=C(C=NC1)OCCN | C12H19N3O
reactant | trans-4-tert-butoxycarbonyl-cyclohexane carboxylic acid | 0.373 mmol, 91 mg | C(C)(C)(C)OC(=O)[C@@H]1CC[C@H](CC1)C(=O)O | C12H20O4
reactant | T3P | 0.498 mmol, 317 μl | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | Et3N | 0.91 mmol, 118 μl | CCN(CC)CC | C6H15N
reactant | T3P | 0.498 mmole, 69 μL | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | 2-methyltetrahydrofuran | 2 ml | CC1OCCC1 | C5H10O
product | tert-butyl (trans-4-{[2-({5-[(2S)-1-methylpyrrolidin-2-yl]pyridin-3-yl}oxy)ethyl]carbamoyl}cyclohexyl)carbamate | 35 mg, 35% | CN1[C@@H](CCC1)C=1C=C(C=NC1)OCCNC(=O)[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C24H38N4O4
